US06399629B1
(D) trans-4-(N,N-Dimethylglycylamino)-L-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide Trihydrochloride
N-tert-Butoxycarbonyl-trans-4-(N,N-dimethylglycylamino)-L-prolyl-trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide (C, 76 mg) was dissolved in 4 N hydrogen chloride in 1,4-dioxane (10 mL) at 0° C., and stirred at 0†° C. for 5 min and at room temperature for 3 hr. The solution was evaporated in vacuo, and the residue was purified by HPLC (Shiseido, Capeell Pak C18 UG120, 3 cm×25 cm, 0.02 N hydrochloric acid:methanol=55:45, v/v) and freeze-dried from water to afford the title compound (28 mg) as a pale yellow powder: 1H NMR (400 MHz, D2O) δ 1.83-2.07 (m, 2H), 2.22-2.47 (m, 3H), 2.47-2.68 (m, 3H), 2.81 (s, 6H), 3.26-3.39 (m, 1H), 3.52-3.70 (m, 2H), 3.80-3.98 (m, 3H), 4.00-4.08 (m, 1), 4.31-4.52 (m, 2H), 4.68-4.84 (m, 2H), 7.07-7.29 (m, 5H), 7.73-7.81 (m, 1H),7.86-7.95 (m, 1H), 7.99-8.12 (m, 2H), 8.87 (s, 1H), and 9.21 (s, 1H); IR (KBr) 3367, 3025, 2952, 1654, 1648, 1610, 1571, 1554, and 1454 cm−1; mass spectrum (FAB+) m/e 616 (M+1); high-resolution mass (FAB) m/e Calcd for C33H41 N7O5: 616.3247. Found: 616.3237.

reactant | N-tert-Butoxycarbonyl-trans-4-(N,N-dimethylglycylamino)-L-prolyl-trans-4-((R)-2-hydroxy-4-phenylbutyrylamino)-L-proline 3-quinolylamide | 76 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C([C@H]1N(C[C@@H](C1)NC(CN(C)C)=O)C(=O)OC(C)(C)C)=O)=O | C38H49N7O7
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | trans-4-(N,N-Dimethylglycylamino)-L-Prolyl-trans-4-((R)-2-Hydroxy-4-Phenylbutyrylamino)-L-Proline 3-Quinolylamide Trihydrochloride | 28 mg | Cl.Cl.Cl.N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@@H](C1)NC([C@@H](CCC1=CC=CC=C1)O)=O)C([C@H]1NC[C@@H](C1)NC(CN(C)C)=O)=O)=O | InChI=1S/C33H41N7O5.3ClH/c1-39(2)20-30(42)36-24-15-27(35-18-24)33(45)40-19-25(38-32(44)29(41)13-12-21-8-4-3-5-9-21)16-28(40)31(43)37-23-14-22-10-6-7-11-26(22)34-17-23;;;/h3-11,14,17,24-25,27-29,35,41H,12-13,15-16,18-20H2,1-2H3,(H,36,42)(H,37,43)(H,38,44);3*1H/t24-,25-,27+,28+,29-;;;/m1.../s1
